US03941803
5-Chloro-2-[2-(phthalimidomethyl)imidazol-1-yl]benzophenone (0.883 g., 2.00 mmol) is suspended in 12 ml. of absolute ethanol, treated with hydrazine and heated to 72°-74° C. Within 10 minutes all of the solid dissolves. After 2 hours the reaction is stopped and white solid is removed by filtration. The mother liquor is concentrated in vacuo to an oil which is crystallized from ethyl acetate-hexane-mixtures to give 8-chloro-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine of melting point 143°-148° C.

reactant | 5-Chloro-2-[2-(phthalimidomethyl)imidazol-1-yl]benzophenone | 2.00 mmol, 0.883 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C25H16ClN3O3
reactant | hydrazine | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 8-chloro-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C=CN3)C3=CC=CC=C3)C1 | C17H12ClN3
